US07001897B2
To a solution of 4-hydroxypiperidine hydrochloride (3.0 g, 21.8 mmol) in a mixture of methylene chloride (90 ml) and pyridine (15 ml) were added chloroformic acid p-nitrobenzyl ester (15.4 g, 72.0 mmol) and triethylamine (13.1 ml, 93.8 mmol) in an ice bath. The mixture was stirred at room temperature for 3 days. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:1)→ethyl acetate as the eluant to afford 4-hydroxy-1-(p-nitrobenzyloxycarbonyl)piperidine (2.96 g, yield 48%) as pale yellow crystals.

reactant | 4-hydroxypiperidine hydrochloride | 21.8 mmol, 3.0 g | Cl.OC1CCNCC1
reactant | chloroformic acid p-nitrobenzyl ester | 72.0 mmol, 15.4 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | triethylamine | 93.8 mmol, 13.1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-hydroxy-1-(p-nitrobenzyloxycarbonyl)piperidine | 2.96 g, yield 48% | OC1CCN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O5
